US08558028B2
Preparation of 1-Acetyl-N-(3-(1-(2-(4-chlorophenoxy)phenylamino)ethyl)phenyl)-N-methylpiperidine-4-carboxamide
2-(4-Chlorophenoxy)aniline (118 mg, 0.541 mmol, 1 eq) and 1-acetyl-N-(3-acetylphenyl)-N-methylpiperidine-4-carboxamide (180 mg, 0.595 mmol, 1.1 eq) were stirred in dry dichloromethane (DCM) (2 mL) at room temperature for 10 min. Tri-isopropoxytitanium chloride (284 μL, 1.19 mmol, 2 eq) was added to the reaction mixture which was stirred at room temperature for 16 hours. Sodium triacetoxyborohydride (504 mg, 2.38 mmol, 4 eq.) was then added to the reaction mixture and was stirred at room temperature for a further 24 h. The reaction mixture was then poured into aqueous sodium bicarbonate (100 mL) and extracted with DCM (120 mL). The organic layer was washed with brine (120 mL), dried over MgSO4, filtered and concentrated to give the crude as a yellow oil. Purification of the crude by flash chromatography (ISCO) eluting with a gradient [0-10% MeOH/DCM] gave (167 mg, 61%) as a white foam. 1H NMR (270 MHz, CDCl3) δ 1.2-1.38 (2H, m, CH2), 1.50 (3H, d, J=6.1 Hz, CH3), 1.55-1.80 (2H, m, CH2), 1.90 (3H, d, J=6.7 Hz CH3), 2.10-2.30 (2H, m, CH2), 2.39 and 2.65 (1H, m, CH2), 3.15 (3H, s, NCH3), 3.69 and 3.49 (1H, d, J=13.4 Hz, CH), 4.25-4.60 (3H, m, NH and CH), 6.30 (1H, d, J=8.0 Hz, Ar) 6.55 (1H, q, J=7.0 Hz, ArH), 6.75-6.95 (4H, m, ArH), 7.00-7.15 (2H, m, ArH), 7.23-7.51 (4H, m, ArH); LCMS (90% MeOH and 10% H2O; Symmetry C18 reverse phase column) tr=2.15 min; (ES+), m/z 506.4 HRMS (ESI) calcd. for C29H32ClN3O3 (M+H)+ 505.2132, found 506.2193. HPLC 100% purity.

reactant | 2-(4-Chlorophenoxy)aniline | 0.541 mmol, 118 mg, 1 eq | ClC1=CC=C(OC2=C(N)C=CC=C2)C=C1 | C12H10ClNO
reactant | 1-acetyl-N-(3-acetylphenyl)-N-methylpiperidine-4-carboxamide | 0.595 mmol, 180 mg, 1.1 eq | C(C)(=O)N1CCC(CC1)C(=O)N(C)C1=CC(=CC=C1)C(C)=O | C17H22N2O3
reactant | Sodium triacetoxyborohydride | 2.38 mmol, 504 mg, 4 eq. | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | 100 mL | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
catalyst | Tri-isopropoxytitanium chloride | 1.19 mmol, 284 μL, 2 eq | [Cl-].C(C)(C)O[Ti+](OC(C)C)OC(C)C
solvent | H2O | O | H2O
solvent | MeOH | CO | CH4O
product | 1-Acetyl-N-(3-(1-(2-(4-chlorophenoxy)phenylamino)ethyl)phenyl)-N-methylpiperidine-4-carboxamide | C(C)(=O)N1CCC(CC1)C(=O)N(C)C1=CC(=CC=C1)C(C)NC1=C(C=CC=C1)OC1=CC=C(C=C1)Cl | C29H32ClN3O3
